US04495202
E. Preparation of 4'-trifluoromethyl-4,4"-dimethoxy-1,1':2',1"-terphenyl
A suspension of 135.4 g. of bis(trifluoromethyl)mercury and 101.4 g. of copper powder in 600 ml. of N-methyl-2-pyrrolidinone was heated to about 140° C. for about 140 minutes. A solution of 47.5 g. of 4'-iodo-4,4"-dimethoxy-1,1':2',1"-terphenyl in 500 ml. of N-methyl-2-pyrrolidinone was added over a 90 minute period. The reaction was then heated at about 150° C. overnight. After cooling, the reaction mixture was added to three liters of diethyl ether. The organic solution was washed four times each with 500 ml. of water, dried over sodium sulfate, filtered and evaporated in vacuo. The residue was purified by chromatography. The appropriate fractions were pooled and evaporated to dryness, and the residue was crystallized from Skelly B to provide 27.15 g. of the desired title product, m.p. about 82°-84° C.

reactant | bis(trifluoromethyl)mercury | FC(F)(F)[Hg]C(F)(F)F
reactant | N-methyl-2-pyrrolidinone | CN1C(CCC1)=O | C5H9NO
reactant | 4'-iodo-4,4"-dimethoxy-1,1':2',1"-terphenyl | IC=1C=C(C(=CC1)C1=CC=C(C=C1)OC)C1=CC=C(C=C1)OC | C20H17IO2
catalyst | copper | [Cu] | Cu
solvent | diethyl ether | three liters | C(C)OCC | C4H10O
product | 4'-trifluoromethyl-4,4"-dimethoxy-1,1':2',1"-terphenyl | FC(C=1C=C(C(=CC1)C1=CC=C(C=C1)OC)C1=CC=C(C=C1)OC)(F)F | C21H17F3O2
